US05202335
To 2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionic acid (100 mg) were added propanol (2 ml) and boron trifluoride diethyl ether complex (12 μl) with stirring. After the mixture was stirred at room temperature for 24 hours, the solvent was evaporated under reduced pressure. The residue was dissolved in dichloromethane, washed succecively with saturated sodium bicarbonate solution and brine, and dried over MgSO4. The solvent was evaporated under reduced pressure to give 106 mg of propyl 2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionate as a colorless viscous oil.

reactant | 2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionic acid | 100 mg | C(C1=CC=CC=C1)C(C(=O)O)CC(=O)N1C[C@H]2CCCC[C@H]2C1 | C19H25NO3
reactant | propanol | 2 ml | C(CC)O | C3H8O
product | propyl 2-benzyl-3-(cis-hexahydro-2-isoindolinylcarbonyl)propionate | 106 mg | C(C1=CC=CC=C1)C(C(=O)OCCC)CC(=O)N1C[C@H]2CCCC[C@H]2C1 | C22H31NO3
